US04607030
(a) 3-Chlorosulfonyl-5,6,7,8-tetrahydro-2-naphthol methyl ether
118 g (0.73 mole) of 5,6,7,8-tetrahydro-2-naphthol methyl ether are dissolved in 320 ml of methylene chloride, and 177 ml of chlorosulfonic acid in 160 ml of methylene chloride are added. The mixture is stirred for 10 minutes at 5° C. and is poured into ice water. The organic phase is separated off and dried with MgSO4. The solvent is removed by evaporation and the residue is recrystallized from acetone/petroleum ether.

reactant | 5,6,7,8-tetrahydro-2-naphthol methyl ether | 0.73 mole, 118 g | COC1=CC=2CCCCC2C=C1 | C11H14O
reactant | chlorosulfonic acid | 177 ml | ClS(=O)(=O)O | ClHO3S
solvent | methylene chloride | 320 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | 3-Chlorosulfonyl-5,6,7,8-tetrahydro-2-naphthol methyl ether | COC1=CC=2CCCCC2C=C1S(=O)(=O)Cl | C11H13ClO3S
